US07795447B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [7-(2,2-dimethyl-propyl)-5,5-dimethyl-5,6,7,8-tetrahydro-imidazo[1,5-a]pyrazin-1-yl]-amide
Following general coupling procedure A, 2-amino-pentanoic acid [7-(2,2-dimethyl-propyl)-5,5-dimethyl-5,6,7,8-tetrahydro-imidazo[1,5-a]pyrazin-1-yl]-amide is coupled with (3,5-difluoro-phenyl)-acetic acid to provide the title compound: Diagnostic C13 NMR (100 MHz, CDCl3) 13.5, 18.9, 27.4, 28.1, 28.6, 33.5, 35.4, 43.1, 52.8, 53.2, 56.2, 65.7, 69.9, 102.9, 112.3, 112.6, 117.4, 129.2, 169.9; MS m/z 490.5 (M+1).

reactant | 2-amino-pentanoic acid [7-(2,2-dimethyl-propyl)-5,5-dimethyl-5,6,7,8-tetrahydro-imidazo[1,5-a]pyrazin-1-yl]-amide | CC(CN1CC=2N(C(C1)(C)C)C=NC2NC(C(CCC)N)=O)(C)C | C18H33N5O
reactant | (3,5-difluoro-phenyl)-acetic acid | FC=1C=C(C=C(C1)F)CC(=O)O | C8H6F2O2
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [7-(2,2-dimethyl-propyl)-5,5-dimethyl-5,6,7,8-tetrahydro-imidazo[1,5-a]pyrazin-1-yl]-amide | CC(CN1CC=2N(C(C1)(C)C)C=NC2NC(C(CCC)NC(CC2=CC(=CC(=C2)F)F)=O)=O)(C)C | C26H37F2N5O2
